US04276479
A mixture of 156 parts of glycidyl methacrylate and 0.24 parts of hydroquinone was introduced into a flask equipped with a stirrer. To this mixture, a mixture of 86 parts of methacrylic acid and 0.12 parts of dibutyl tin dilaurate was added dropwise over a period of about 2 hours at a temperature of 100° to 115° C. under a nitrogen atmosphere, and the resulting mixture was reacted at the same temperature until the acid value became 2 or less to give a glycerol dimethacrylate.

reactant | glycidyl methacrylate | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
reactant | dibutyl tin dilaurate | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
product | glycerol dimethacrylate | C(C(=C)C)(=O)OCC(OC(C(=C)C)=O)CO | C11H16O5
